US04185115
Preparation of Ethyl p-benzylaminobenzoate
A mixture of 16.5 g. of ethyl p-aminobenzoate, 8.55 g. of benzyl bromide and 45 ml. of hexamethylphosphorimide are heated in an oil bath at 110° C. for 20 hours. The mixture is diluted with water, chilled, filtered and the solid washed with water to give tan crystals, m.p. 90°-93° C. A sample is recrystallized from ethanol to give tan crystals, m.p. 96°-97° C.

reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hexamethylphosphorimide | CC=1C(=C(C(=C(C(=[C-]PC1)C)C)C)C)C
solvent | water | O | H2O
product | Ethyl p-benzylaminobenzoate | C(C1=CC=CC=C1)NC1=CC=C(C(=O)OCC)C=C1 | C16H17NO2
